US08754242B2
3-Bromofuran (5.2 g, 56 mmol) and magnesium iodide (1.5 g, 5.6 mmol) are added to 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione (4.0 g, 18.7 mmol) and the mixture is stirred at room temperature for 2 days; small quantities of dichloromethane are added when required to aid stirring. The reaction mixture is allowed to stand at room temperature for 17 hours, then concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to give (1RS, 2RS,6SR,7SR)-8-bromo-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-en-3,5-dione.

reactant | 3-Bromofuran | 56 mmol, 5.2 g | BrC1=COC=C1 | C4H3BrO
reactant | magnesium iodide | 5.6 mmol, 1.5 g | [I-].[Mg+2].[I-]
reactant | 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione | 18.7 mmol, 4.0 g | CC1=C(C(=CC(=C1)C)C)C1C(C=CC1=O)=O | C14H14O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1RS, 2RS,6SR,7SR)-8-bromo-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-en-3,5-dione | BrC=1C2C3C(C(C(C3C(C1)O2)=O)C2=C(C=C(C=C2C)C)C)=O | C18H17BrO3
